US06436965B1
Step 1: Ethyl 5-Bromo-3-formylindole-2-carboxylate
In a 1 L round bottom flask 10.5 mL of phosphorus oxychloride was added to 15.5 g of N-methylformanilide at room temperature that resulted in a yellow solid after 15 min. At this time, 170 mL of 1,2-dichloroethane and 20.1 g of ethyl 5-bromoindole-2-carboxylate were added. The resulting suspension was heated under reflux for 4 hours and then concentrated to remove the organic solvent. 75 g of sodium acetate in 750 mL of water were added and the solid suspension was stirred for 30 min at room temperature, filtered and washed 3 times with water. The crude material was dried under vacuum for 1 hour and swished with 500 mL of EtOH to yield 21.2 g of the title compound as off-white solid.

reactant | phosphorus oxychloride | 10.5 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | N-methylformanilide | 15.5 g | CN(C1=CC=CC=C1)C=O | C8H9NO
reactant | ethyl 5-bromoindole-2-carboxylate | 20.1 g | BrC=1C=C2C=C(NC2=CC1)C(=O)OCC | C11H10BrNO2
solvent | 1,2-dichloroethane | 170 mL | ClCCCl | C2H4Cl2
product | Ethyl 5-Bromo-3-formylindole-2-carboxylate | 21.2 g | BrC=1C=C2C(=C(NC2=CC1)C(=O)OCC)C=O | C12H10BrNO3
